US08476434B2
Potassium tert-butoxide (7.92 g, 70.5 mmol) was dissolved in THF (150 mL) and cooled to −78° C. 2-Fluoro-5-methoxybenzoic acid (3.00 g, 17.6 mmol) in THF (100 mL) was added followed by n-butyl lithium (2.5 N in hexanes, 28.2 mL, 70.5 mmol). After 40 minutes, iodomethane (2.2 mL, 35.4 mmol) was added and allowed to stir at −78° C. for 70 minutes before warming to room temperature. The reaction was quenched with saturated ammonium chloride (100 mL) and extracted with ether. The aqueous layer was acidified using 6 N HCl then extracted with ether. The organic layer was dried over sodium sulfate, filtered and concentrated. The crude material was purified by Gilson reverse-phase HPLC (acidic mobile phase) to yield 2-fluoro-5-methoxy-4-methylbenzoic acid as a white solid. MS m/z=185 [M+1]+. Calc'd for C9H9FO3: 184.20.

reactant | Potassium tert-butoxide | 70.5 mmol, 7.92 g | CC(C)([O-])C.[K+]
reactant | 2-Fluoro-5-methoxybenzoic acid | 17.6 mmol, 3.00 g | FC1=C(C(=O)O)C=C(C=C1)OC | C8H7FO3
reactant | n-butyl lithium | 70.5 mmol, 2.5 N, 28.2 mL | C(CCC)[Li]
reactant | iodomethane | 35.4 mmol, 2.2 mL | IC | CH3I
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-fluoro-5-methoxy-4-methylbenzoic acid | FC1=C(C(=O)O)C=C(C(=C1)C)OC | C9H9FO3
